data/pmechdb/original/mc_train_fold0/raw/train.txt
CO[C:23]1=[CH:22][C:21](=[CH:20][CH:10]([CH2:11][O-:12])C(CC2=CC(=C(C=C2)O)OC)C(=O)O[Na])C=C[C:24]1=[O:25].O>>COC1=C(C=CC(=C1)CC([CH:10]=[CH:20][C:21]2=[CH:22][C:23](=[C:24](C=C2)[O-:25])OC)C(=O)O[Na])O.[CH2:11]=[O:12].O 10,11=10,20;12=11;24,25=25;20,21=21,22;22,23=23,24
[H:10][Al-:11](CCCC)(CC(C)C)CC(C)C.CC(C)C[C:20](=[O:21])CC1CCCCC1.[Li+]>>[H:10][C:20](CC1CCCCC1)(CC(C)C)[O-:21].CCCC[Al:11](CC(C)C)CC(C)C.[Li+] 10,11=10,20;20,21=21
[CH3:20][I:21].[NH3:10]>>[CH3:20][NH3+:10].[I-:21] 10=20;20,21=21
[CH2:20]([O-:10])[Br:21]>>[CH2:20]=[O:10].[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C(=C([N+](=O)[O-])[N+](=O)[O-])(NC(=O)O)[NH:10]C(=O)O.C([N+](=O)[O-])[N+](=O)[O-]>>[H:20][NH+:10](C(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)O)C(=O)O.OS(=O)(=O)[O-:21].C([N+](=O)[O-])[N+](=O)[O-] 10=20;20,21=21
C1=CC=[C:10](C=C1)[CH:11]([O-:12])[O:20][O:21][C:22](=[OH+:23])C2=CC(=CC=C2)Cl>>C1=CC=[C:10](C=C1)[O:20][CH:11]=[O:12].C1=CC(=CC(=C1)Cl)[C:22](=[O:21])[OH:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.CC1=CCC(N1)(C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C)[OH:10].C(=O)[O-].O>>[H:20][OH+:10]C1(CC=C(N1)C)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C.CC(=O)[O-:21].C(=O)[O-].O 10=20;20,21=21
CC(C)[CH:20](CCC1=CCCC1)[OH2+:21]>>CC(C)[CH+:20]CCC1=CCCC1.[OH2:21] 20,21=21
[H:20][C:21]1=[N+](C(=C(S1)CCO)C)CC.CC[N:10](CC)CC.CCO.CC1=CC=C(C=C1)C=O.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)NC2=CC=CC=C2.CC(=O)C=C.COC1=CC=C(C=C1)C=CC(=O)C2=CC=C(C=C2)OC.COC1=CC=C(C=C1)C=O.COC1=CC(=CC(=C1OC)OC)C=O.C1=CC=C(C=C1)C=O.C1=CC(=CC=C1C=O)F.[Br-]>>[H:20][N+:10](CC)(CC)CC.CC[N+]1=[C-:21]SC(=C1C)CCO.CCO.CC1=CC=C(C=C1)C=O.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)NC2=CC=CC=C2.CC(=O)C=C.COC1=CC=C(C=C1)C=CC(=O)C2=CC=C(C=C2)OC.COC1=CC=C(C=C1)C=O.COC1=CC(=CC(=C1OC)OC)C=O.C1=CC=C(C=C1)C=O.C1=CC(=CC=C1C=O)F.[Br-] 10=20;20,21=21
[H:20][OH:21].CC1=NC(=CS1)C=C(C)C(CC=C)[O:10][Ti](OC(C)C)(OC(C)C)OC(C)C.CCCC[Sn](CCCC)(CCCC)OC(C)C>>[H:20][O+:10](C(CC=C)C(=CC1=CSC(=N1)C)C)[Ti](OC(C)C)(OC(C)C)OC(C)C.[OH-:21].CCCC[Sn](CCCC)(CCCC)OC(C)C 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)Br)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)Br 10=20;20,21=21,22;22,23=23,24
C[P:10](C)([Mg]Cl)(Cl)[Cl:11]>>C[P+:10](C)([Mg]Cl)Cl.[Cl-:11] 10,11=11
CC1C2CC(CC1[OH:10])(C(=O)C3=C2C(=CN3COCC[Si](C)(C)C)C4=CN=C(C(=N4)OC)C5=CN(C6=CC(=CC=C65)Br)S(=O)(=O)C7=CC=C(C=C7)C)OC.CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-]>>CC1C2CC(CC1[OH+:10][I:20]3(C4=C(C=CC=C4)C(=O)O3)(OC(=O)C)OC(=O)C)(C(=O)C5=C2C(=CN5COCC[Si](C)(C)C)C6=CN=C(C(=N6)OC)C7=CN(C8=CC(=CC=C87)Br)S(=O)(=O)C9=CC=C(C=C9)C)OC.CC(=O)[O-] 10=20,
[H:20][O:21]C(=O)C.C1=CC=[N+](C(=C1)CS[OH:10])C2=NC3=C(N2)C=CC=C3>>[H:20][OH+:10]SCC1=CC=CC=[N+]1C2=NC3=C(N2)C=CC=C3.CC(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].[NH3:10]>>[H:20][NH3+:10].[OH2:21] 10=20;20,21=21
[H:20][O+:21](CC(C)(CO)C(=O)O)C(C1=CC=CC=C1)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC(CO)(C[O:21]C(C1=CC=CC=C1)O)C(=O)O 10=20;20,21=21
C[CH:20]([N:10](C)C)[Br:21]>>C[CH:20]=[N+:10](C)C.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(C)(C(C)(C)OC(C1=CC=C(C=C1)[N+](=O)[O-])[OH:10])O>>[H:20][OH+:10]C(C1=CC=C(C=C1)[N+](=O)[O-])OC(C)(C)C(C)(C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CS(=O)(=O)[O:21][CH:20]1CCCC2CCCC[CH:10]1[CH:11]2[O-:12].[Li+].[AlH3]>>CS(=O)(=O)[O-:21].C1CCC(CCC[CH:20]=[CH:10]C1)[CH:11]=[O:12].[Li+].[AlH3] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].C[Si](C)(C)C(=C=C)C1CCC2CCCCC2(O1)[O:10][Na].B1(C2CCCC1CCC2)O>>[H:20][O+:10](C12CCCCC1CCC(O2)C(=C=C)[Si](C)(C)C)[Na].[OH-:21].B1(C2CCCC1CCC2)O 10=20;20,21=21
C[C:20](C)([C:11](C)([CH3:10])[OH:12])[OH2+:21].OS(=O)(=O)[O-]>>C[C:11](=[OH+:12])[C:20](C)(C)[CH3:10].[OH2:21].OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC=C[CH2:20][Cl:21].[C-:10]#N>>CC=C[CH2:20][C:10]#N.[Cl-:21] 10=20;20,21=21
C[C:11]1=[CH:10]CC(CC1)[C+:20](C)C.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-]>>C[C+:11]1CCC2C[CH:10]1[C:20]2(C)C.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-] 10,11=10,20
CCO[C:20](=[O:21])CCC(=O)N(C)C.[C-:10]#N>>CCO[C:20](CCC(=O)N(C)C)([C:10]#N)[O-:21] 10=20;20,21=21
[H:20][O:21][P+:22](OCCC#N)(OC1CC(OC1C)N2C=C(C(=O)NC2=O)C)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.C1=CC=[N:10]C=C1.C1=CC=[NH+]C=C1.[I-]>>[H:20][N+:10]1=CC=CC=C1.CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O[P:22](=[O:21])(OCCC#N)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.C1=CC=[NH+]C=C1.[I-] 10=20;20,21=21,22
[H:20][N+:21]1(CCCC1)C2(CCCCC2)[O-].C1CC[NH:10]C1.C1=CC=CC=C1>>[H:20][NH+:10]1CCCC1.C1CCC(CC1)([N:21]2CCCC2)[O-].C1=CC=CC=C1 10=20;20,21=21
C[CH+:20]C.CC(C)(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1>>C[CH:20](C)[CH:10]1C=C[C+:13]([CH:12]=[CH:11]1)C(C)(C)C 10,11=10,20;12,13=11,12
[H:20][CH:21](C)C(=O)CC1(C(CCC1=O)C)C(=O)OC.[H:10][Na:11]>>C[CH-:21]C(=O)CC1(C(CCC1=O)C)C(=O)OC.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
C1C[C:20](CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O)([OH:10])[OH+:21]CCO>>C(CO)[OH:21].C1C[C:20](=[OH+:10])CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O 10=20;20,21=21
